US07211601B2
(2S,4EZ)-N-[2-(diethylamino)ethyl]-1-(diphenylacetyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 2, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, diphenylacetic acid, and N1,N1-diethyl-1,2-ethanediamine the title compound was obtained after column chromatography as an off-white solid as a mixture of E/Z-isomers.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | diphenylacetic acid | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | N1,N1-diethyl-1,2-ethanediamine | C(C)N(CCN)CC | C6H16N2
product | (2S,4EZ)-N-[2-(diethylamino)ethyl]-1-(diphenylacetyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide | C(C)N(CCNC(=O)[C@H]1N(CC(C1)=NOC)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC | C26H34N4O3
